US07749530B2
[2-Nitro-4-(4-nitrobenzoyl)phenyl] malonate (4.15 g, 9.61 mmol) was dissolved in EtOH (24 mL) after which Sn powder (9.16 g, 77 mmol) was added followed by dropwise addition of concentrated HCl(aq) (26 mL). The reaction mixture was allowed to reflux for 3 hours, filtered while hot and then allowed to cool to room temperature. The cooled reaction mixture was diluted with CHCl3 (400 mL) and then extracted once with H2O (400 mL). The aqueous layer was then neutralized with NaHCO3 (pH=7) and then extracted with a 95% EtOAc/5% i-prOH solution (3×400 mL). The organic layers were combined and dried over anhydrous Na2SO4. The solution was then concentrated in vacuo affording the 6-(4-Amino-benzoyl)-1,3-dihydro-indol-2-one in 51% yield (1.24 g, 4.90 mmol).

reactant | [2-Nitro-4-(4-nitrobenzoyl)phenyl] malonate | 9.61 mmol, 4.15 g | C(CC(=O)[O-])(=O)OC1=C(C=C(C=C1)C(C1=CC=C(C=C1)[N+](=O)[O-])=O)[N+](=O)[O-]
reactant | HCl | 26 mL | Cl | ClH
reactant | EtOH | 24 mL | CCO | C2H6O
solvent | CHCl3 | 400 mL | C(Cl)(Cl)Cl | CHCl3
product | 6-(4-Amino-benzoyl)-1,3-dihydro-indol-2-one | 51% yield | NC1=CC=C(C(=O)C2=CC=C3CC(NC3=C2)=O)C=C1 | C15H12N2O2
